US06812229B1
0.43 g of methyl N-[2-methyl-5-(1-hydroxyiminoethyl)benzyl]carbamate was dissolved in 15 ml of N,N-dimethylformamide, 0.75 g of potassium carbonate and 0.32 g of 2-chloro-6-methylpyridine hydrochloride were added thereto, followed by stirring under heating at from 90 to 100° C. for 8 hours. After completion of the reaction, the reaction solution was poured into water, extraction with ethyl acetate was carried out, followed by washing with water, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (Wakogel C-200, eluent: hexane/ethyl acetate=4/1) to obtain 0.30 g of methyl N-{2-methyl-5-[1-(6-methylpyridin-2-yl methoxy)iminoethyl]benzyl}carbamate (m.p. 72-75° C.) as pale yellow crystals.

reactant | methyl N-[2-methyl-5-(1-hydroxyiminoethyl)benzyl]carbamate | 0.43 g | CC1=C(CNC(OC)=O)C=C(C=C1)C(C)=NO | C12H16N2O3
reactant | potassium carbonate | 0.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-6-methylpyridine hydrochloride | 0.32 g | Cl.ClC1=NC(=CC=C1)C
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl N-{2-methyl-5-[1-(6-methylpyridin-2-yl methoxy)iminoethyl]benzyl}carbamate | 0.30 g | CC1=C(CNC(OC)=O)C=C(C=C1)C(C)=NOCC1=NC(=CC=C1)C | C19H23N3O3
